US07220862B2
N-(2-Amino-3-fluorobenzyl)-1-benzylpiperidin-4-amine
To a refluxing suspension of lithium aluminum hydride (16.1 g, 424 mmol, 3.50 equiv.) in dioxane (800 mL) was added a solution of 2-amino-N-(1-benzylpiperidin-4-yl)-3-fluorobenzamide (39.7 g, 121 mmol) in dioxane (250 mL) at such a rate that gas evolution was limited to a safe flow. Upon completion of the addition, the resulting suspension was heated at reflux for 4 h. The reaction was cooled to 0° C., and quenched by the cautious addition of 20% potassium hydroxide. Upon formation of a white, filterable precipitate, the solid was filtered through a course glass sintered funnel, and the eluent concentrated to give 36.3 g (96%) as a light yellow oil which was used without purification. Mass spec.: 314.29 (MH)+.

reactant | lithium aluminum hydride | 424 mmol, 16.1 g, 3.50 equiv. | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-amino-N-(1-benzylpiperidin-4-yl)-3-fluorobenzamide | 121 mmol, 39.7 g | NC1=C(C(=O)NC2CCN(CC2)CC2=CC=CC=C2)C=CC=C1F | C19H22FN3O
solvent | dioxane | 800 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 250 mL | O1CCOCC1 | C4H8O2
product | N-(2-Amino-3-fluorobenzyl)-1-benzylpiperidin-4-amine | NC1=C(CNC2CCN(CC2)CC2=CC=CC=C2)C=CC=C1F | C19H24FN3
